US08440832B2
E) 3-Benzyl-3-methyl-2,3-dihydro-benzofuran-5-carboxylic acid
A mixture of 3-Benzyl-3-methyl-2,3-dihydro-benzofuran-5-carboxylic acid methyl ester (125 mg, 0.44 mmol), sodium hydroxide (120 mg, 3 mmol), ethanol (6 mL) and water (1 mL) in tetrahydrofuran (6 mL), is stirred for 12 h at room temperature. The reaction medium is acidified by adding a 1.2 M hydrochloric acid solution and extracted with ethyl acetate. The organic phase is washed with water, dried (Na2SO4), and concentrated in a rotary evaporator. The product is obtained as slightly brown oil (116 mg, 97%).

reactant | 3-Benzyl-3-methyl-2,3-dihydro-benzofuran-5-carboxylic acid methyl ester | 0.44 mmol, 125 mg | COC(=O)C=1C=CC2=C(C(CO2)(C)CC2=CC=CC=C2)C1 | C18H18O3
reactant | sodium hydroxide | 3 mmol, 120 mg | [OH-].[Na+]
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1.2 M | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 3-Benzyl-3-methyl-2,3-dihydro-benzofuran-5-carboxylic acid | 116 mg, 97% | C(C1=CC=CC=C1)C1(COC2=C1C=C(C=C2)C(=O)O)C | C17H16O3
